datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8].[C:22](=[O:23])[H:24]>>[C-:22]#[O+:23].[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:7])([H:8])[H:24],0.0
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11]([C:12](=[C:13]([c:14]1[c:15]([H:30])[c:16]([H:31])[c:17]([H:32])[c:18]([H:33])[c:19]1[H:34])[H:29])[c:20]1[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]1[H:39])([H:26])([H:27])[H:28]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[C:12]([C:11]([H:26])([H:27])[H:28])([C:13]([c:14]1[c:15]([H:30])[c:16]([H:31])[c:17]([H:32])[c:18]([H:33])[c:19]1[H:34])[H:29])[c:20]1[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]1[H:39])[H:6])([H:4])[H:5],60.3751
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([C:6]([C:7]([C:8](=[C:9]([H:23])[H:24])[H:22])=[C:10]([C:11]([H:26])([H:27])[H:28])[H:25])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:12]>>[C:0](#[C:1][C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]([C:8](=[C:9]([H:23])[H:24])[H:22])[C:10]1([C:11]([H:26])([H:27])[H:28])[H:25])[H:12],46.9445
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10]([C:11]([H:16])([H:17])[H:18])[H:15])([H:12])([H:13])[H:14]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][C:10]([C:9]([H:12])([H:13])[H:14])([C:11]([H:16])([H:17])[H:18])[H:15],19.6648
[C:0](=[C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])[H:10].[C:19]([C:20]([C:21]([H:26])([H:27])[H:28])[C:22]([H:29])([H:30])[H:31])([H:23])([H:24])[H:25]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[C:20]([C:19]([H:23])([H:24])[H:25])([C:21]([H:26])([H:27])[H:28])[C:22]([H:29])([H:30])[H:31])([H:9])[H:10],27.447
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:11])[H:10])([H:8])[H:9].[C:18]([C:19]([H:22])([H:23])[H:24])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])([H:11])[C:18]([C:19]([H:22])([H:23])[H:24])([H:20])[H:21])[H:10])([H:8])[H:9],8.66088
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([C:9]=[S:10])([H:11])([H:12])[H:13]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:9]([C:8]([H:11])([H:12])[H:13])=[S:10],52.7184
[C:0]([C:1]([C:2](=[C:3]([C:4]([C:5]([C:6]([H:17])([H:18])[H:19])=[C:7]([C:8]([H:21])([H:22])[H:23])[H:20])([H:15])[H:16])[H:14])[H:13])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]1([H:12])[C:2]([H:13])=[C:3]([H:14])[C:4]([H:15])([H:16])[C:5]([C:6]([H:17])([H:18])[H:19])[C:7]1([C:8]([H:21])([H:22])[H:23])[H:20])([H:9])([H:10])[H:11],98.9934
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[C:13]1([H:22])[C:14]([H:23])([H:24])[C:15]2([H:25])[C:16]([H:26])([H:27])[C:17]([H:28])([H:29])[C:18]([H:30])([H:31])[C:19]([H:32])([H:33])[C:20]2([H:34])[C:21]1([H:35])[H:36]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])[H:7])([H:5])[H:6].[H:8][C:13]1([H:22])[C:14]([H:23])([H:24])[C:15]2([H:25])[C:16]([H:26])([H:27])[C:17]([H:28])([H:29])[C:18]([H:30])([H:31])[C:19]([H:32])([H:33])[C:20]2([H:34])[C:21]1([H:35])[H:36],31.7984
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[C:4]([H:8])([H:9])[H:10])[H:5].[C:11](#[C:12][C:13]([C:14]([H:17])([H:18])[H:19])[H:16])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:6])[H:7])([C:4]([H:8])([H:9])[H:10])[C:13]([C:12]#[C:11][H:15])([C:14]([H:17])([H:18])[H:19])[H:16])[H:5],46.6934
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12]([C:13]([C:14]([H:19])([H:20])[H:21])[H:18])([H:15])([H:16])[H:17]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])([H:5])[C:13]([C:12]([H:15])([H:16])[H:17])([C:14]([H:19])([H:20])[H:21])[H:18],13.2633
[C:0](=[C:1]([C:2]([C:3](=[C:4]([C:5]([C:6]([H:15])([H:16])[H:17])[H:14])[H:13])[H:12])([H:10])[H:11])[H:9])([H:7])[H:8]>>[C:0]([C:1]1([H:9])[C:2]([H:10])([H:11])[C:3]([H:12])=[C:4]([H:13])[C:5]1([C:6]([H:15])([H:16])[H:17])[H:14])([H:7])[H:8],92.5919
[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9]>>[C:0]([C:1](=[C:2]([C:3]([C:4]([C:5]([C:6]([H:11])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])[H:10])([H:7])([H:8])[H:9],297.064
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[H:8])([H:6])[H:7].[C:16](=[C:17]([C:18]([C:19](=[C:20]([H:26])[H:27])[H:25])[H:24])[H:23])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([C:5]([H:13])([H:14])[H:15])([H:12])[C:18]([C:17](=[C:16]([H:21])[H:22])[H:23])([C:19](=[C:20]([H:26])[H:27])[H:25])[H:24])[H:8])([H:6])[H:7],60.3333
